US06903085B1
N-(1-benzyl-4-piperidinyl)-3-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]propanamide
To a solution of 3-(3-Pyridin-2-yl-[1,2,4]oxadiazol-5-yl)-propionic acid (1 g) in tetrahydrofuran (5 ml), was added carbonyldiimidazole (0.74 g). The mixture was stirred for 10 minutes before addition of 1-benzyl-piperidin-4-ylamine (1 ml) in tetrahydrofuran (5 ml). The reaction mixture was stirred for 15 minutes then partitioned between ethyl acetate (20 ml) and water (20 ml). The organic layer was separated, dried (MgSO4) and solvent removed by evaporation. Purification by Biotage® 40S eluting 3%MeOH/0.5% 880 ammonia/dichloromethane gave the title compound (0.93 g).

reactant | 3-(3-Pyridin-2-yl-[1,2,4]oxadiazol-5-yl)-propionic acid | 1 g | N1=C(C=CC=C1)C1=NOC(=N1)CCC(=O)O | C10H9N3O3
reactant | carbonyldiimidazole | 0.74 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-benzyl-piperidin-4-ylamine | 1 ml | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(1-benzyl-4-piperidinyl)-3-[3-(2-pyridinyl)-1,2,4-oxadiazol-5-yl]propanamide | 0.93 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(CCC1=NC(=NO1)C1=NC=CC=C1)=O | C22H25N5O2
